US07157487B2
After addition of 0.25N NaOH (3.75 mL, 0.93 mmol) to a solution of methyl 2-(1-methyl-3-indolyl)-6-benzoxazolylacetate (200 mg, 0.62 mmol) in THF (6.5 mL), the mixture was stirred at room temperature for 2 hours. Under ice cooling, the reaction mixture was poured in 1N HCl (10 mL). The crystals thus precipitated were collected by filtration, washed with water and dried under reduced pressure, whereby 2-(1-methyl-3-indolyl)-6-benzoxazolylacetic acid (189 mg, 99%) was obtained as a colorless solid.

reactant | NaOH | 0.93 mmol, 0.25N, 3.75 mL | [OH-].[Na+]
reactant | methyl 2-(1-methyl-3-indolyl)-6-benzoxazolylacetate | 0.62 mmol, 200 mg | CN1C=C(C2=CC=CC=C12)C=1OC2=C(N1)C=CC(=C2)CC(=O)OC | C19H16N2O3
solvent | THF | 6.5 mL | C1CCOC1 | C4H8O
solvent | HCl | 1N, 10 mL | Cl | ClH
product | 2-(1-methyl-3-indolyl)-6-benzoxazolylacetic acid | 189 mg, 99% | CN1C=C(C2=CC=CC=C12)C=1OC2=C(N1)C=CC(=C2)CC(=O)O | C18H14N2O3
